US06143762
7-Methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline
To a stirred solution of 4-phthalimidobutyraldehyde (15.96 g, 0.074 mol) and 7-methoxy-1,2,3,4-tetrahydroisoquinoline (10 g, 0.061 mol) in 1,2-dichloroethane (100 ml) was added sodium triacetoxyborohydride (19.3 g, 0.091 mol) in three equal portions over 10 mins, followed by glacial acetic acid (3.72 ml, 0.061 mol). The resultant mixture was stirred at room temperature for 3 h, then at 45° C. for 1 h, and poured into saturated aqueous potassium carbonate (600 ml). The mixture was extracted into dichloromethane (2×400 ml) and the combined extracts dried (Na2SO4) and evaporated in vacuo. Trituration of the residue with hexane afforded the title compound as a pale brown gum (13.5 g, 60%).

reactant | 4-phthalimidobutyraldehyde | 0.074 mol, 15.96 g | C1(C=2C(C(N1CCCC=O)=O)=CC=CC2)=O | C12H11NO3
reactant | 7-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.061 mol, 10 g | COC1=CC=C2CCNCC2=C1 | C10H13NO
reactant | sodium triacetoxyborohydride | 0.091 mol, 19.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.061 mol, 3.72 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | 600 ml | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 7-Methoxy-2-(4-phthalimidobutyl)-1,2,3,4-tetrahydroisoquinoline | 13.5 g, 60% | COC1=CC=C2CCN(CC2=C1)CCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H24N2O3
